US05382596
(S)-5,6,7,8-Tetrahydro-6-propylamino-l-naphthalenol, hydrobromide.
A mixture of (S)-1,2,3,4-tetrahydro-5-methoxy-N-propyl-2-naphthalenamine (10.0 g, 0.0391 mol) as the HCl salt, or its corresponding free base, was heated at reflux in 48% hydrobromic acid (150 mL) for a period of two to three hours. The solution was cooled to room temperature and the resulting solid was collected by filtration. Drying under high vacuum at 60° C. gave 10.7 g of the product (96% yield).

reactant | (S)-1,2,3,4-tetrahydro-5-methoxy-N-propyl-2-naphthalenamine | 0.0391 mol, 10.0 g | COC1=C2CC[C@@H](CC2=CC=C1)NCCC | C14H21NO
reactant | HCl | Cl | ClH
reactant | hydrobromic acid | 150 mL | Br | BrH
product | (S)-5,6,7,8-Tetrahydro-6-propylamino-l-naphthalenol, hydrobromide | 10.7 g, 96% yield | Br.C(CC)N[C@@H]1CC=2C=CC=C(C2CC1)O | InChI=1S/C13H19NO.BrH/c1-2-8-14-11-6-7-12-10(9-11)4-3-5-13(12)15;/h3-5,11,14-15H,2,6-9H2,1H3;1H/t11-;/m0./s1
